US07501424B2
Preparation of 4-(4-imidazol-1-yl-pyrimidin-2-ylamino)-benzoic acid
4-(4-imidazol-1-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester prepared in Preparation 18 was used instead of 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester according to the similar procedure to Preparation 19 to give the titled compound as yellow solid.

reactant | 4-(4-imidazol-1-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC1=NC=CC(=N1)N1C=NC=C1)=O | C16H15N5O2
reactant | 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C18H16N4O2
product | 4-(4-imidazol-1-yl-pyrimidin-2-ylamino)-benzoic acid | N1(C=NC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C14H11N5O2
